US09102591B2
2-chloro-3-methoxy-N-(3-cyclopropyl-2-(6-(difluoromethyl)pyridin-3-yl)propyl)benzamide
From 2-chloro-3-methoxybenzoic acid and 3-cyclopropyl-2-(6-(difluoromethyl)pyridin-3-yl)propan-1-amine. LCMS (MH+): m/z=395.1, tR (minutes, Method F)=2.96

reactant | 2-chloro-3-methoxybenzoic acid | ClC1=C(C(=O)O)C=CC=C1OC | C8H7ClO3
reactant | 3-cyclopropyl-2-(6-(difluoromethyl)pyridin-3-yl)propan-1-amine | C1(CC1)CC(CN)C=1C=NC(=CC1)C(F)F | C12H16F2N2
product | 2-chloro-3-methoxy-N-(3-cyclopropyl-2-(6-(difluoromethyl)pyridin-3-yl)propyl)benzamide | ClC1=C(C(=O)NCC(CC2CC2)C=2C=NC(=CC2)C(F)F)C=CC=C1OC | C20H21ClF2N2O2
